*
* This contains small simulations of the iput and output impedance
* matching circuits in the LNA and PA sections.  Modify the if
* statements to get the one you want, make sure to look at the
* graph with the right frequencies!
*
* Also remember that on the output side, the load side of the match
* is looking into the PA/LNA device.  So it's backwards.
*

.option rseries = 1.0e-4

Vcc vcc 0 dc 3.3
Vee vee 0 dc 0

V1 ina 0 dc 0 AC 1 sin(1 0 440MEG 0 0 0)
Rsrc ina in 50

.if (0)

* TX PA input matcher
L1     in   out  17n
C1     in   0    37p

Rout   out  out1 1.87
* -37.7 ohms at 435MHz
Cout   out1 0    9.6p

.csparam loadreal = 1.87
.csparam loadimag = -37.7

.else
.if (0)

* TX PA output matcher
C1     in   out  130p
L1     in   0    6.8n

Rout   out  out1 6.23
* -13.3 ohms at 435MHz
Cout   out1 0    27p

.csparam loadreal = 6.23
.csparam loadimag = -13.3

.else
.if (0)

* TX LNA input matcher
L1     in   out  91n
C1     out  0    6.4p

Rout   out  out1 142.4
* -80.8 ohms at 145MHz
Cout   out1 0    13.6p

.csparam loadreal = 142.4
.csparam loadimag = -80.8

.else

* TX LNA output matcher
L1     in   out  47n
C1     out  0    11p

Rout   out  out1 86.8
* -1.88 ohms at 145MHz
Cout   out1 0    583p

.csparam loadreal = 86.8
.csparam loadimag = -1.88

.endif
.endif
.endif

.control
*tran .1ns 60ns 50ns
*tran 10ns 22000ns 2640ns
*plot v(in)

ac lin 5000 400Meg 470Meg
plot vr(in) vi(in) vp(in)

ac lin 5000 130Meg 160Meg
plot vr(in) vi(in) vp(in)

ac lin 5000 100Meg 2000meg
let loadimp = unitvec(1) * loadreal + j(unitvec(1) * loadimag)
plot db((v(out)^2/loadimp)/(v(in) * i(v1)))

.endc

.end
